US09403839B2
To a solution of 11-oxa-3-azaspiro[5.5]undec-9-en-8-one; 2,2,2-trifluoroacetic acid (2.42 g, 8.6 mmol) in CH2Cl2 (35 mL) was added triethylamine (10.9 mL, 78.2 mmol) followed by the addition of 4-isopropoxy-3-methyl-benzoyl chloride (1.83 g, 8.60 mmol) in CH2Cl2 (5 mL) dropwise. The mixture was stirred at room temperature overnight. The mixture was diluted with CH2Cl2, washed with water, dried over MgSO4, filtered and concentrated to dryness. The crude material was purified by column chromatography (30-50% ethyl acetate-Hex) to provide 3-(4-isopropoxy-3-methyl-benzoyl)-11-oxa-3-azaspiro[5.5]undec-9-en-8-one (2.65 g) as a light yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.27 (t, J=4.0 Hz, 1H), 7.25-7.17 (m, 2H), 6.81 (d, J=8.1 Hz, 1H), 5.43 (d, J=6.1 Hz, 1H), 4.56 (dd, J=12.1, 6.0 Hz, 1H), 4.43-3.61 (m, 2H), 3.33 (s, 2H), 2.55 (s, 2H), 2.20 (s, 3H), 2.13 (d, J=13.2 Hz, 2H), 1.61 (s, 2H), 1.35 (d, J=6.0 Hz, 6H). ESI-MS m/z calc. 343.18, found 344.3 (M+1)+; Retention time: 1.50 minutes (3 minute run).

reactant | 11-oxa-3-azaspiro[5.5]undec-9-en-8-one | C1CNCCC12CC(C=CO2)=O | C9H13NO2
reactant | 2,2,2-trifluoroacetic acid | 8.6 mmol, 2.42 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 78.2 mmol, 10.9 mL | C(C)N(CC)CC | C6H15N
reactant | 4-isopropoxy-3-methyl-benzoyl chloride | 8.60 mmol, 1.83 g | C(C)(C)OC1=C(C=C(C(=O)Cl)C=C1)C | C11H13ClO2
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-isopropoxy-3-methyl-benzoyl)-11-oxa-3-azaspiro[5.5]undec-9-en-8-one | 2.65 g | C(C)(C)OC1=C(C=C(C(=O)N2CCC3(CC2)CC(C=CO3)=O)C=C1)C | C20H25NO4
